US07435735B2
Step 1: Ethyl (4S)-2-ethyl-8-(methoxy)-4-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate
To a solution of ethyl 4(S)-2-ethyl-8-hydroxy-4-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (6.6 g, 25.8 mmol; prepared in a manner similar to the procedures described in Examples 32 and 45 starting with N-Boc-L-alanine) in DMF (125 mL), potassium carbonate (13.7 g, 99.1 mmol) and iodomethane (1.86 mL, 29.7 mmol) was added. The reaction mixture was stirred at rt over night. The mixture was filtered and the filtrate concentrated under vacuum. The residue was partitioned between dichloromethane and brine. The organic extract was washed with brine, dried over sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluted with ethyl acetate to give titled material.

reactant | ethyl 4(S)-2-ethyl-8-hydroxy-4-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | CC[C@]1(CNC(C=2N1C=C(C2O)C(=O)OCC)=O)C | C13H18N2O4
reactant | N-Boc-L-alanine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | potassium carbonate | 99.1 mmol, 13.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 29.7 mmol, 1.86 mL | IC | CH3I
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | Ethyl (4S)-2-ethyl-8-(methoxy)-4-methyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | C(C)N1C(C=2N([C@H](C1)C)C=C(C2OC)C(=O)OCC)=O | C14H20N2O4
